US09145380B2
2-[[3-(2,3-Dichlorophenyl)phenyl]sulfonylamino]benzenesulfonamide
Tetrakis(triphenylphosphine)palladium(0) (14 mg, 0.012 mmol), was added to a solution of 2,3-dichlorophenylboronic acid (57 mg, 0.30 mmol) and 2-[(3-bromophenyl)-sulfonylamino]benzenesulfonamide (97 mg, 0.25 mmol) in DMF (1 mL). The reaction mixture was stirred at RT under argon for 15 minutes before addition of 2M Na2CO3 (0.5 mL). The reaction was stirred overnight at 90° C., filtered and purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (61 mg, 53%) as a white solid.

reactant | 2,3-dichlorophenylboronic acid | 0.30 mmol, 57 mg | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | 2-[(3-bromophenyl)-sulfonylamino]benzenesulfonamide | 0.25 mmol, 97 mg | BrC=1C=C(C=CC1)S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C12H11BrN2O4S2
reactant | Na2CO3 | 2M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[[3-(2,3-Dichlorophenyl)phenyl]sulfonylamino]benzenesulfonamide | 61 mg, 53% | ClC1=C(C=CC=C1Cl)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C18H14Cl2N2O4S2
